US07423159B2
A mixture of 2-(4-nitrophenyl)ethanethioamide (1.50 g), ethyl bromopyruvate (1.64 g) and ethanol (50 mL) was heated under reflux for 30 min. The reaction mixture was concentrated, and ethyl acetate was added to the residue. The mixture was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 2-(4-nitrobenzyl)-1,3-thiazole-4-carboxylate was obtained as pale-yellow crystals (1.79 g, yield 81%) from a fraction eluted with hexane-ethyl acetate (1:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 122-123° C.

reactant | 2-(4-nitrophenyl)ethanethioamide | 1.50 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(N)=S | C8H8N2O2S
reactant | ethyl bromopyruvate | 1.64 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 2-(4-nitrobenzyl)-1,3-thiazole-4-carboxylate | [N+](=O)([O-])C1=CC=C(CC=2SC=C(N2)C(=O)OCC)C=C1 | C13H12N2O4S
